US05925676
To a solution mixture of 2.35 g of (1RS,4RS)-3-ethyl-4-methyl-4-methoxymethoxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether and 25 ml of dichloromethane was added under nitrogen stream and at -78° C. 1.4 ml of triethylsilane by drops, and the resulting mixture was stirred for 15 minutes. Thereafter, under the same conditions, 8.17 ml of 0.93 M hexane solution of ethylaluminum dichloride was added by drops and the resulting mixture was brought up to -10° C. over 1 hour. Thereafter, the reaction liquid was poured into ice-cooled 5% aqueous solution of citric acid and extracted with diethyl ether. The ether layer was washed successively with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography to obtain 1 g of (RS)-3-ethyl-4-methyl-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether. Yield 53%

reactant | (1RS,4RS)-3-ethyl-4-methyl-4-methoxymethoxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 2.35 g | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)(OCOC)C)CC | C16H32O3Si
reactant | triethylsilane | 1.4 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | ethylaluminum dichloride | [Cl-].[Cl-].C(C)[Al+2]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hexane | 0.93 M, 8.17 ml | CCCCCC | C6H14
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (RS)-3-ethyl-4-methyl-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 1 g, Yield 53% | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C1)C)CC | C14H28OSi
